US07977344B2
2-{[(1R)-1-Methylbutyl]oxy}-8-(methyloxy)-9-[2-(tetrahydro-2H-Pyran-3-yl)ethyl]-9H-purin-6-amine
Prepared similarly to Intermediate 213 from 2-{[(1R)-1-methylbutyl]oxy}-8-(methyloxy)-1H-purin-6-amine trifluoroacetate and 3-(2-bromoethyl)tetrahydro-2H-pyran.

reactant | 2-{[(1R)-1-methylbutyl]oxy}-8-(methyloxy)-1H-purin-6-amine trifluoroacetate | FC(C(=O)O)(F)F.C[C@H](CCC)OC=1NC(=C2N=C(N=C2N1)OC)N
reactant | 3-(2-bromoethyl)tetrahydro-2H-pyran | BrCCC1COCCC1 | C7H13BrO
product | 2-{[(1R)-1-Methylbutyl]oxy}-8-(methyloxy)-9-[2-(tetrahydro-2H-Pyran-3-yl)ethyl]-9H-purin-6-amine | C[C@H](CCC)OC1=NC(=C2N=C(N(C2=N1)CCC1COCCC1)OC)N | C18H29N5O3
